US08350090B1
(R)-3-(3-Methoxybenzyl)-4-oxocyclopent-2-enyl acetate (0.5 g, 1.48 mmol), was dissolved in MeOH (5 ml), 7% KOH/CH3OH (5 ml) was added to the solution, and the mixture was stirred at room temperature overnight. The mixture was evaporated and the resulting residue was neutralized by HCl to pH=6.5, and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and evaporated. The resulting residue was purified by chromatography on a silica gel column using hexane-EtOAc as eluent to give (R)-4-hydroxy-2-(3-methoxybenzyl)cyclopent-2-enone as yellow oil: 0.4 g, (yield: 92%) [α]D20=+3.5˜5.7°

reactant | (R)-3-(3-Methoxybenzyl)-4-oxocyclopent-2-enyl acetate | 1.48 mmol, 0.5 g | C(C)(=O)O[C@H]1C=C(C(C1)=O)CC1=CC(=CC=C1)OC | C15H16O4
reactant | KOH CH3OH | 5 ml | [OH-].[K+].CO
solvent | MeOH | 5 ml | CO | CH4O
product | (R)-4-hydroxy-2-(3-methoxybenzyl)cyclopent-2-enone | yield: 92% | O[C@H]1C=C(C(C1)=O)CC1=CC(=CC=C1)OC | C13H14O3
